US08445674B2
C) 4-[(R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propylamino]-butyric acid tert-butyl ester (22% ee)
To a solution of 0.36 ml (4.10 mmol) of oxalyl chloride in 10 ml CH2Cl2 at −50 to −60° C. was added a solution of 0.60 ml (8.50 mmol) dimethylsulfoxide in 2.4 ml of CH2Cl2 within 10 min. The solution was stirred for 5 min and a solution of 0.90 (3.50 mmol) (R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propan-1-ol (22% ee) in 10 ml of CH2Cl2 was added within 10 min. The mixture was stirred for 15 min and 2.47 ml (17.70 mmol) of triethylamine were added within 20 min. The suspension was stirred for 75 min and slowly warmed to 0° C. (complete oxidation followed by TLC, SiO2, EtOAc:n-heptane 1:1). 0.73 g (3.70 mmol) of 4-aminobutyric acid tert-butyl ester; hydrochlorid was added and 0.41 ml (7.10 mmol) of acetic acid to adjust the pH to 5 followed by 0.85 g (3.90 mmol) of sodium triacetoxyborohydride. After 5 min at 0° C. and 1.5 h at RT, the reaction was poured on a solution of sat. aq. NaHCO3 solution and extracted with EtOAc (3 times). The organic phases were washed with a solution of 10% aq. NaCl solution. The combined organic phases were dried over Na2SO4 and the solvent was removed under vacuum to give 1.31 g (94%) of the title compound as a 61:39 mixture of the (R) and (S) diastereomers as orange oil. MS: 395.17 (MH+, Cl).

reactant | oxalyl chloride | 4.10 mmol, 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 8.50 mmol, 0.60 ml | CS(=O)C | C2H6OS
reactant | (R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propan-1-ol | ClC=1C=C(C=CC1C(F)(F)F)N[C@@H](CO)C | C10H11ClF3NO
reactant | triethylamine | 17.70 mmol, 2.47 ml | C(C)N(CC)CC | C6H15N
reactant | 4-aminobutyric acid tert-butyl ester | 3.70 mmol, 0.73 g | C(C)(C)(C)OC(CCCN)=O | C8H17NO2
reactant | hydrochlorid | Cl | ClH
reactant | acetic acid | 7.10 mmol, 0.41 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.90 mmol, 0.85 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 2.4 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc n-heptane | CCOC(=O)C.CCCCCCC
product | 4-[(R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propylamino]-butyric acid tert-butyl ester | 1.31 g, 94% | C(C)(C)(C)OC(CCCNC[C@@H](C)NC1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C18H26ClF3N2O2
